US08258144B2
A solution of 2,4-dichloro-7-tosyl-7H-pyrrolo[2,3-d]pyrimidine (200 mg, 0.584 mmol), (S)-3-hydroxypyrrolidine (58 mg, 0.667 mmol) and triethylamine (0.160 mL, 1.15 mmol) in dioxane (5 mL) was stirred at 70° C. for 20 h. Water and EtOAc were added. The organic phase was separated, dried over Na2SO4, concentrated in vacuo to give (S)-1-(2-chloro-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl)pyrrolidin-3-ol (201 mg). MS 393.3 and 395.3 (M+H, Cl pattern).

reactant | 2,4-dichloro-7-tosyl-7H-pyrrolo[2,3-d]pyrimidine | 0.584 mmol, 200 mg | ClC=1N=C(C2=C(N1)N(C=C2)S(=O)(=O)C2=CC=C(C)C=C2)Cl | C13H9Cl2N3O2S
reactant | (S)-3-hydroxypyrrolidine | 0.667 mmol, 58 mg | O[C@@H]1CNCC1 | C4H9NO
reactant | triethylamine | 1.15 mmol, 0.160 mL | C(C)N(CC)CC | C6H15N
reactant | Water | O | H2O
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (S)-1-(2-chloro-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl)pyrrolidin-3-ol | 201 mg | ClC=1N=C(C2=C(N1)N(C=C2)S(=O)(=O)C2=CC=C(C)C=C2)N2C[C@H](CC2)O | C17H17ClN4O3S
